*SPICE Netlist for circuit 294
R1 0 4 1k
M3 2 1 VDD 10 10 PMOS W=1u L=1u
M2 2 5 4 4 NMOS W=1u L=1u
M4 3 1 VDD VDD PMOS W=1u L=1u
M1 3 5 4 4 NMOS W=1u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.MODEL PMOS PMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

