*SPICE Netlist for circuit 312
C1 6 3 1nF
R4 7 6 1k
I1 VDD 2 DC 1mA
R1 0 3 1k
R2 0 8 1k
V1 7 0 5V
M2 2 2 8 8 NMOS W=1u L=1u
M1 4 2 3 3 NMOS W=1u L=1u
R3 4 VDD 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

