*SPICE Netlist for circuit 336
I1 VDD 2 DC 1mA
M3 VDD 1 4 4 NMOS W=1u L=1u
M2 5 2 0 6 6 NMOS W=1u L=1u
M4 4 2 0 0 NMOS W=1u L=1u
M1 2 1 5 7 7 NMOS W=1u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

