*SPICE Netlist for circuit 362
C1 0 2 1nF
C2 0 1 1nF
M1 2 1 0 0 NMOS W=1u L=1u
V1 5 0 5V
R2 5 1 1k
R1 2 VDD 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

