*SPICE Netlist for circuit 38
I1 2 0 DC 1mA
M1 VDD VDD 2 2 NMOS W=1u L=1u
V1 1 0 5V
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

